US05753657
A suspension of 5.75 g of 5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one, 10 g of sodium hydroxide pellets and 125 mg of tetrabutylammonium bromide in 200 ml of dimethyl sulphoxide is stirred at a temperature in the region of 20° C. 3.18 g of benzaldehyde are then added and the stirring is continued for 18 hours at a temperature in the region of 20° C. The reaction mixture is poured into a mixture of water and ice (250 ml) and acidified with 100 ml of acetic acid. The solid formed is filtered off and the crude product is purified by two successive chromatographies on a column of silica with a mixture of dichloromethane and methanol (90/10 by volume). 0.13 g of 10-benzylidene-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one is thus obtained, in the form of a yellow solid melting above 260° C. (Analysis % calculated C: 77.16, H: 4.21, N: 13.50, O: 5.14, % found C: 76.7, H: 3.7, N: 13.2).

reactant | 5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 5.75 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | benzaldehyde | 3.18 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | O | H2O
catalyst | tetrabutylammonium bromide | 125 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethyl sulphoxide | 200 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 10-benzylidene-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 0.13 g | C(C1=CC=CC=C1)=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C20H13N3O
